US07696223B2
c) 4-Bromomethyl-2-(tert-butoxycarbonyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester
A mixture of 2-(tert-butoxycarbonyl-phenyl-amino)-4-methyl-thiazole-5-carboxylic acid ethyl ester (1.61 g, 4.45 mmol), N-bromosuccinimide (833 mg, 4.68 mol) and benzoyl peroxide (54 mg, 0.22 mmol) in carbon tetrachloride (30 mL) was refluxed for 16 h before it was cooled to room temperature and partitioned between dichloromethane and water. The organic layer was washed with saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow oil (1.61 g); MS: (+) m/z 341.0, 343.0 (M+1-Boc, 79Br/81Br).

reactant | 2-(tert-butoxycarbonyl-phenyl-amino)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 4.45 mmol, 1.61 g | C(C)OC(=O)C1=C(N=C(S1)N(C1=CC=CC=C1)C(=O)OC(C)(C)C)C | C18H22N2O4S
reactant | N-bromosuccinimide | 4.68 mol, 833 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.22 mmol, 54 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-Bromomethyl-2-(tert-butoxycarbonyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester | 1.61 g | C(C)OC(=O)C1=C(N=C(S1)N(C1=CC=CC=C1)C(=O)OC(C)(C)C)CBr | C18H21BrN2O4S
